US04145546
An intimate mixture of 5-(4-chlorobenzyl)-2-methylthio-4-pyrimidone (1.36 g) and 2-(2-thiazolylmethylthio)ethylamine (0.9 g) was heated at 130°-135° for 31/2 hours. After cooling the reaction mixture was treated with 2N hydrochloric acid. Evaporation to dryness followed by recrystallisation from isopropanol/methanol gave 2-[2-(2-thiazolyl-methylthio)-ethylamino]-5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride, m.p. 172.5°-174.5°.

reactant | 5-(4-chlorobenzyl)-2-methylthio-4-pyrimidone | 1.36 g | ClC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11ClN2OS
reactant | 2-(2-thiazolylmethylthio)ethylamine | 0.9 g | S1C(=NC=C1)CSCCN | C6H10N2S2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 2-[2-(2-thiazolyl-methylthio)-ethylamino]-5-(4-chlorobenzyl)-4-pyrimidone monohydrochloride | Cl.S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC=C(C=C1)Cl | InChI=1S/C17H17ClN4OS2.ClH/c18-14-3-1-12(2-4-14)9-13-10-21-17(22-16(13)23)20-5-7-24-11-15-19-6-8-25-15;/h1-4,6,8,10H,5,7,9,11H2,(H2,20,21,22,23);1H
